US06017675
4.7 g (0.0195 mol) of 3,6-dimethoxyfluoren-9-one and 2.7 g (0.039 mol) of hydroxylammonium chloride are heated at 90° C. in a mixture of 50 ml of ethanol and 20 ml of water. After five hours the solution is poured into ice/water and ethyl acetate is added. The resulting suspension is filtered and the product that has been filtered off is washed with water and dried in vacuo. 4.25 g (86%) of 9-hydroxyimino-3,6-dimethoxyfluorene are obtained in the form of a yellow solid having a melting point of 230-240° C. According to 1H-NMR, that crude product still contains amounts of 3,6-dimethoxyfluoren-9-one. The crude product is, however, used in the subsequent step without being further purified and 3,6-dimethoxyfluoren-9-one is not removed until the end product is purified. Elemental analysis: C15H13NO3 (255.27)

reactant | 3,6-dimethoxyfluoren-9-one | 0.0195 mol, 4.7 g | COC=1C=CC=2C(C3=CC=C(C=C3C2C1)OC)=O | C15H12O3
reactant | hydroxylammonium chloride | 0.039 mol, 2.7 g | [Cl-].O[NH3+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 9-hydroxyimino-3,6-dimethoxyfluorene | 4.25 g, 86% | ON=C1C2=CC=C(C=C2C=2C=C(C=CC12)OC)OC | C15H13NO3
